US04002766
α-(1-Cyclohexyl-3-pyrrolidinyl)-α,α-diphenylacetamide
To 80 ml. of concentrated sulfuric acid was added 20 g. (0.057 mole) of α-(cyclohexyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile. The mixture was shaken until solution occurred while being cooled in an ice bath until heat was no longer evolved. The solution was heated at 70° C. for 48 hours, poured on ice and made basic with ammonium hydroxide. The resulting white solid precipitate was taken up in ethyl acetate and the solution dried over sodium sulfate. The solution was concentrated and the residual oil taken up in hot ligroin, filtered and allowed to stand overnight at room temperature. The resulting crystals were recrystallized from ligroin. Yield 9.0 g. (42.5%); m.p. 119°-121° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | α-(cyclohexyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile | 0.057 mole | C1(CCCCC1)N1CC(CC1)C(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H28N2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-(1-Cyclohexyl-3-pyrrolidinyl)-α,α-diphenylacetamide | C1(CCCCC1)N1CC(CC1)C(C(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30N2O
